US06509125B1
Subsequently, in 70 ml of DMF, 3.5 g of the compound (F), 2.4 g of p-chlorobenzyl alcohol and 12 g of potassium carbonate were stirred at 120° C. for 5 hours. After filtration, DMF was removed under reduced pressure, and purification was carried out by column chromatography to yield 2.5 g of the target anthraquinone dye No. 8.

reactant | p-chlorobenzyl alcohol | 2.4 g | ClC1=CC=C(CO)C=C1 | C7H7ClO
reactant | potassium carbonate | 12 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 70 ml | CN(C)C=O | C3H7NO
product | anthraquinone | C1=CC=CC=2C(C3=CC=CC=C3C(C12)=O)=O | C14H8O2
